US06982348B2
To a solution of (4RS,5SR)-5-(4-fluorophenyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (1 g, 2.95 mmol) in N,N-dimethylformamide (10 ml) was added 60% sodium hydride (142 mg, 3.54 mmol) and the mixture was stirred at room temperature for 15 min. To the reaction solution was added 1-naphthylmethyl chloride (480 ml, 3.25 mmol) and the mixture was stirred for 1 hr. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1). Recrystallization from diisopropyl ether-hexane gave (4RS,5SR)-5-(4-fluorophenyl)-3-(1-naphthalenylmethyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (1.23 g, 87%).

reactant | (4RS,5SR)-5-(4-fluorophenyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 2.95 mmol, 1 g | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC=C(C=C1)C(F)(F)F | C17H13F4NO2
reactant | sodium hydride | 3.54 mmol, 142 mg | [H-].[Na+]
reactant | 1-naphthylmethyl chloride | 3.25 mmol, 480 ml | C1(=CC=CC2=CC=CC=C12)CCl | C11H9Cl
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | (4RS,5SR)-5-(4-fluorophenyl)-3-(1-naphthalenylmethyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 1.23 g, 87% | FC1=CC=C(C=C1)C1C(N(C(O1)=O)CC1=CC=CC2=CC=CC=C12)CC1=CC=C(C=C1)C(F)(F)F | C28H21F4NO2
